### PR TITLE
impredicative definition of inductive sets according to Sam Speight

### PR DESCRIPTION
**Pull request by rmatthes**
a kind of UniMath case study for the approach of Sam Speight's master's thesis, carried out during the UniMath School 2019

This will hopefully motivate subsequent work to address the general case of inductive sets - and maybe more.

### CODE REVIEW

File: UniMath/Induction/ImpredicativeInductiveSets.v [hunk 1]
```diff
@@ -0,0 +1,661 @@
...
+    intro h.
+    apply funextfun.
+    intro x.
+    cbn in H.
+    red in H.
+    apply (H Nat_as_set X Z x S h (fun n => pr1 n X h x)); apply idpath.
+  - cbn.
+    cbn in H.
+    red in H.
+    apply funextsec.
```
Comment (siddharthist) [inline UniMath/Induction/ImpredicativeInductiveSets.v]: This chain could be shortened to `do n (apply funextsec; intro).`

**Comment by benediktahrens** [comment]
There are large chunks of Lean (?) code in comments of this PR. Is that code useful?

**Comment by rmatthes** [comment]
@benediktahrens : the exercise was to transport the Lean code into UniMath; I consider it useful to have that direct comparison - and we do not have control about the future of the Lean code repository (anyway, this does not weigh much: less than 6kB).

File: UniMath/Induction/ImpredicativeInductiveSets.v [hunk 2]
```diff
@@ -0,0 +1,577 @@
...
+    apply pathsinv0.
+    apply Nat_weak_eta.
+  - unfold Nat_rec.
+    induction n as [n0 H].
+    cbn in H; red in H.
+    cbn.
+    apply H; assumption.
+Defined.
+
+(* copied from https://github.com/jonas-frey/Impredicative/blob/master/encode.hlean#L289:
```
Comment (benediktahrens) [inline UniMath/Induction/ImpredicativeInductiveSets.v]: This link is not stable, since it points to "master", which will change.
It is better to refer to a specific commit.

File: UniMath/Induction/ImpredicativeInductiveSets.v [hunk 3]
```diff
@@ -0,0 +1,577 @@
...
+    + exact (Proj2 _ _ a).
+  - cbn. intro x.
+    apply Sum_η.
+  - cbn. intro y.
+    intermediate_path (Pair _ _ (Proj1 _ _ y) (Proj2 _ _ y)).
+    + apply idpath.
+    + apply Product_classical_η.
+Defined.
+
+(* copied from https://github.com/jonas-frey/Impredicative/blob/master/encode.hlean#L173:
```
Comment (benediktahrens) [inline UniMath/Induction/ImpredicativeInductiveSets.v]: Refer to commit number instead of "master".

File: UniMath/Induction/ImpredicativeInductiveSets.v [hunk 4]
```diff
@@ -0,0 +1,577 @@
...
+
+Lemma Product_univ_prop {C : HSET} : isweq (@Product_rec C).
+Proof.
+  use isweq_iso.
+  - exact (λ f a b, f (Pair a b)).
+  - apply idpath.
+  - apply Product_η.
+Defined.
+
+(* copied from https://github.com/jonas-frey/Impredicative/blob/master/encode.hlean#L173 :
```
Comment (benediktahrens) [inline UniMath/Induction/ImpredicativeInductiveSets.v]: replace "master" by commit number
